US09120749B2
[6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl](cyclopropyl)methanone
Following general procedure D, (6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone (30 mg, 0.072 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (41 mg, 0.150 mmol) to afford the desired product (22.3 mg, 64%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.76 (s, 1H), 8.25 (d, J=1.6 Hz, 1H), 8.10-7.95 (m, 2H), 7.55-7.46 (m, 1H), 7.42 (dd, J=11.7, 2.3 Hz, 1H); 3.53 (d, J=12.7 Hz, 2H), 3.22 (t, J=11.6 Hz, 2H), 2.61 (d, J=6.6 Hz, 2H), 2.59-2.51 (m, 1H), 2.48 (s, 6H), 1.96 (d, J=10.0 Hz, 3H), 1.69-1.56 (m, 2H), 1.35-1.28 (m, 2H), 1.28-1.16 (m, 2H); ESI MS m/z 482 [C27H29ClFN3O2+H]+; HPLC 98.0% (AUC), tR=10.47 min.

reactant | (6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone | 0.072 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN(C)C | C21H26BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 41 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | [6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl](cyclopropyl)methanone | 22.3 mg, 64% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN(C)C | C27H29ClFN3O2
